US06511974B1
[4-(1-Cyclopropanecarbonyl-1H-pyrazol-3-yl)-phenyl]-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone
To a solution of [4-(1H-pyrazol-3-yl)-phenyl]-(5H,11H-pyrrolo[2,1-c][1,4]-benzodiazepin-10-yl)-methanone (1.0 g) in dry pyridine (10 ml) was added cyclopropanecarbonyl chloride (0.44 g). After stirring at room temperature for 18 hours the reaction mixture was poured into water and the precipitate was collected by filtration. The crude product was dissolved in dichloromethane and dried over anhydrous sodium sulfate. This solution was filtered through a short column of hydrous sodium magnesium silicate, eluting with several additional volumes of dichloromethane. The eluant was concentrated on a hot plate with the gradual addition of hexane until crystallization occurred. After cooling, the crystals were collected by filtration to yield the title compound (0.88 g) was obtained as a crystalline solid, m.p. 197-199° C.

reactant | [4-(1H-pyrazol-3-yl)-phenyl]-(5H,11H-pyrrolo[2,1-c][1,4]-benzodiazepin-10-yl)-methanone | 1.0 g | N1N=C(C=C1)C1=CC=C(C=C1)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2 | C22H18N4O
reactant | cyclopropanecarbonyl chloride | 0.44 g | C1(CC1)C(=O)Cl | C4H5ClO
reactant | water | O | H2O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | [4-(1-Cyclopropanecarbonyl-1H-pyrazol-3-yl)-phenyl]-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone | 0.88 g | C1(CC1)C(=O)N1N=C(C=C1)C1=CC=C(C=C1)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2 | C26H22N4O2
